US07368479B2
A suspension of 4-chlorophenol (2.6 g, 20 mmol), chloroacetone (2.8 g, 30 mmol) and potassium carbonate (3.45 g, 25 mmol) in acetone (100 ml) is heated at reflux for 3 hours. The precipitating inorganic salts are filtered off and the filtrate is evaporated to dryness to give the 1-(4-chlorophenoxy)-propan-2-one.

reactant | 4-chlorophenol | 20 mmol, 2.6 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | chloroacetone | 30 mmol, 2.8 g | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 25 mmol, 3.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(4-chlorophenoxy)-propan-2-one | ClC1=CC=C(OCC(C)=O)C=C1 | C9H9ClO2
